### PR TITLE
[Merged by Bors] - feat(SimpleGraph): weaker condition for paths in acyclic graphs

### PR DESCRIPTION
**Pull request by vlad902**
`IsAcyclic.isPath_iff_chain'` defines a weaker condition for proving that a walk is a path, in particular it shows that rather than proving that all vertices in the support of a walk are distinct, one must only show that consecutive edges are distinct (e.g. every other vertex must be distinct.) This leads to a simple corollary that trails are also paths in acyclic graphs.

I had a need for this when formalizing Cayley graphs, since this condition maps cleanly onto words in free groups being reduced.

---

*This PR continues the work from #25630.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/25630*

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -148,6 +148,36 @@ theorem isTree_iff_existsUnique_path :
 lemma IsTree.existsUnique_path (hG : G.IsTree) : ∀ v w, ∃! p : G.Walk v w, p.IsPath :=
   (isTree_iff_existsUnique_path.1 hG).2
 
+theorem IsAcyclic.isPath_iff_chain' [DecidableEq V] (hG : G.IsAcyclic) {v w : V}
+    (p : G.Walk v w) : p.IsPath ↔ List.Chain' (fun x y => x ≠ y) p.edges := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    (p : G.Walk v w) : p.IsPath ↔ List.Chain' (fun x y ↦ x ≠ y) p.edges := by
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 2]
```diff
@@ -148,6 +148,34 @@ theorem isTree_iff_existsUnique_path :
...
+          ⟨[], (tail.dropUntil u' hh).support.tail, by simp [← support_append]⟩
+      refine ⟨⟨?_, edges_nodup_of_support_nodup this⟩, this⟩
+      by_contra hhh
+      refine hcc.1 s(u', v') ?_ rfl
+      rw [← tail.cons_tail_eq (by simp [not_nil_iff_lt_length, h'])]
+      have := IsPath.mk' this |>.eq_snd_of_mem_edges (by simp [head.ne.symm]) (Sym2.eq_swap ▸ hhh)
+      simp [this, snd_takeUntil head.ne]
+
+theorem IsAcyclic.isTrail_iff_isPath [DecidableEq V] (hG : G.IsAcyclic) {v w : V} (p : G.Walk v w) :
+    p.IsTrail ↔ p.IsPath :=
```
Comment (adomani) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    p.IsPath ↔ p.IsTrail :=
```
I would expect this to be the direction of the statement, in the spirit of having the harder condition on the left.
